US07935703B2
1-(2,4-Dichloro-phenyl)-[1,4]diazepane
To a solution of 4-(2,4-dichloro-phenyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester (0.13 g, 0.38 mmol) in dichloromethane (2 mL) was added trifluoroacetic acid (1 mL). The reaction was stirred until complete (as monitored by LC-MS) and the volatiles were removed in vacuo. The residue was partitioned between ethyl acetate (5 mL) and saturated aqueous sodium bicarbonate (5 mL). The organic layer was separated, dried over sodium sulfate, filtered and concentrated in vacuo to give the title compound as a gum (0.09 g, 100%).

reactant | 4-(2,4-dichloro-phenyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 0.38 mmol, 0.13 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=C(C=C(C=C1)Cl)Cl | C16H22Cl2N2O2
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 1-(2,4-Dichloro-phenyl)-[1,4]diazepane | 0.09 g, 100% | ClC1=C(C=CC(=C1)Cl)N1CCNCCC1 | C11H14Cl2N2
